US08563717B2
6-Amino-2-(butyloxy)-9-[(1-cyclohexyl-4-piperidinyl)methyl]-7,9-dihydro-8H-purin-8-one
Iodocyclohexane (0.1 mmol) was weighed into a tube and an aliquot (0.4 ml, 0.12 mmol) of a solution of 2-(butyloxy)-8-(methyloxy)-9-(4-piperidinylmethyl)-9H-purin-6-amine (0.402 g mg, 1.2 mmol) suspended in DMF (4.8 ml) was added to each tube. DIPEA (40 μl, 0.229 mmol) and potassium carbonate (46 mg) was added to each tube, the tube was heated at 50° C. for 18 hours. An additional portion of iodocyclohexane (15 μl) and DIPEA (40 μl) was added and heating continued for a further 18 hours. DMSO (250 uL) was added and the solution and the mixture purified by Mass Directed AutoPrep (Method A). The solvent was evaporated in vacuo using the Genevac. The residue was redissolved in 4M HCl/dioxane (0.2 ml), capped and stood at room temperature for 18 hours. The solvent was dried under a stream of nitrogen in the Radleys blowdown apparatus. The sample was dissolved in 1:1 DMSO:MeOH and purified by MDAP (Method C) and the solvent was evaporated in vacuo using the Genevac. The material was redissolved in methanol (0.5 ml), and applied to top of 0.1 g aminopropyl SPE (preconditioned with methanol, 1.5 ml). The cartridge was eluted with methanol (1.5 ml), the solvent was removed to give the title compound (1.9 mg).

reactant | Iodocyclohexane | 0.1 mmol | IC1CCCCC1 | C6H11I
reactant | 2-(butyloxy)-8-(methyloxy)-9-(4-piperidinylmethyl)-9H-purin-6-amine | 1.2 mmol, 0.402 g | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CCNCC1)OC)N | C16H26N6O2
reactant | DIPEA | 0.229 mmol, 40 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodocyclohexane | 15 μl | IC1CCCCC1 | C6H11I
reactant | DIPEA | 40 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4.8 ml | CN(C)C=O | C3H7NO
solvent | DMSO | 250 uL | CS(=O)C | C2H6OS
product | 6-Amino-2-(butyloxy)-9-[(1-cyclohexyl-4-piperidinyl)methyl]-7,9-dihydro-8H-purin-8-one | 1.9 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1CCN(CC1)C1CCCCC1)=O | C21H34N6O2
